US08431563B2
A 500-mL round-bottomed flask was charged with di-tert-butyl (2S)-2-(((1-methylethyl)amino)methyl)-1,4-piperazinedicarboxylate (0.69 g, 1.9 mmol), DMAP (0.0358 g, 0.293 mmol), DIPEA (1.40 mL, 8.05 mmol) and CH2Cl2 (8 mL). To this mixture was added methanesulfonyl chloride (0.299 mL, 3.86 mmol) at room temperature. After 20 min at room temperature additional methanesulfonyl chloride (0.10 mL, 1.3 mmol) was added and stirring was continued at room temperature for an additional 1 h. The reaction mixture was partitioned between water (30 mL) and CH2Cl2 (20 mL). The aqueous phase was extracted with CH2Cl2 (30 mL) and the combined organic extracts were washed with saturated aqueous NaCl (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (50 g of silica gel, 0 to 50% EtOAc in hexanes) to afford di-tert-butyl (2R)-2-(((1-methylethyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate (0.617 g) as a white solid.

reactant | di-tert-butyl (2S)-2-(((1-methylethyl)amino)methyl)-1,4-piperazinedicarboxylate | 1.9 mmol, 0.69 g | CC(C)NC[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H35N3O4
reactant | DIPEA | 8.05 mmol, 1.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 3.86 mmol, 0.299 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 1.3 mmol, 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 0.293 mmol, 0.0358 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | di-tert-butyl (2R)-2-(((1-methylethyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate | 0.617 g | CC(C)N(S(=O)(=O)C)C[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H37N3O6S
